US06316490B1
2-[2-(4-Hydroxyphenyl)thioethyl]-1-methylpyrrolidine (Method B):
2-(2-Chloroethyl)-1-methylpyrrolidine (2.0 g, 13.5 mmole), 4-hydroxythiophenol (1.7 g, 13.5 mmole), potassium carbonate (18.7 g, 135.4 mmole) and DMF (26 mL) were combined, yielding 1.42 g (5.98 mmole, 44%) of the desired compound.

reactant | 2-(2-Chloroethyl)-1-methylpyrrolidine | 13.5 mmole, 2.0 g | ClCCC1N(CCC1)C | C7H14ClN
reactant | 4-hydroxythiophenol | 13.5 mmole, 1.7 g | OC1=CC=C(C=C1)S | C6H6OS
reactant | potassium carbonate | 135.4 mmole, 18.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 26 mL | CN(C)C=O | C3H7NO
product | 2-[2-(4-Hydroxyphenyl)thioethyl]-1-methylpyrrolidine | 5.98 mmole, 1.42 g, 44% | OC1=CC=C(C=C1)SCCC1N(CCC1)C | C13H19NOS
